US07544695B2
A mixture of methyl 6-chloronicotinate (800 mg, 3.15 mmol), NEt3 (1.00 mL, 7.19 mmol) and tert-butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate (1.00 g, 3.94 mmol) in 5 mL of DMSO was heated to 100° C. for 1 h with microwave irradiation. The reaction mixture was poured into EtOAc and washed with 2 N NaOH, 2 H HCl, brine and dried (Na2SO4), filtered and concentrated giving tert-butyl 9-[5-(methoxycarbonyl)pyridin-2-yl]-3,9-diazaspiro[5.5]undecane-3-carboxylate.

reactant | methyl 6-chloronicotinate | 3.15 mmol, 800 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | NEt3 | 7.19 mmol, 1.00 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate | 3.94 mmol, 1.00 g | C1CN(CCC12CCNCC2)C(=O)OC(C)(C)C | C14H26N2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | tert-butyl 9-[5-(methoxycarbonyl)pyridin-2-yl]-3,9-diazaspiro[5.5]undecane-3-carboxylate | COC(=O)C=1C=CC(=NC1)N1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C21H31N3O4
